US04806488
Preparation of Sheep Anti-Digoxin-Gallocyanine Conjugate
To a stirred solution of 16 mg of sheep anti-digoxin in 10 ml of pH 8.0 phosphate buffered saline at 0° was added dropwise 0.1 ml of a 0.1M solution of gallocyanine NHS ester (prepared by a procedure similar to that of Example 4 for the preparation of the NHS ester of DECAS) in dry DMF over a five minute period. After stirring at 0°-4° for 18 hours, 0.1 ml of 4M hydroxylamine hydrochloride was added all at once and stirring was continued for thirty minutes at 0°-4°. The blue solution was then purified by gel filtration, dialysis, and centrifugation to give 7.6 ml of 1.44 mg/ml blue antibody solution. The solution contained an average of 2.6 moles gallocyanine per mole of anti-digoxin. The absorption maxima of the conjugate were at 278 nm and 625 nm, and the relative quantum yield of the conjugate was determined to be 0.02.

reactant | digoxin | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O | C41H64O14
reactant | gallocyanine | CN(C)C1=CC2=C(C=C1)[NH+]=C3C(=CC(=O)C(=C3O2)O)C(=O)O.[Cl-]
reactant | hydroxylamine hydrochloride | 4M, 0.1 ml | Cl.NO
reactant | gallocyanine | 2.6 moles | CN(C)C1=CC2=C(C=C1)[NH+]=C3C(=CC(=O)C(=C3O2)O)C(=O)O.[Cl-]
solvent | phosphate buffered saline | 10 ml, pH 8.0 | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | Digoxin Gallocyanine | C[C@@H]1[C@H]([C@H](C[C@@H](O1)O[C@@H]2[C@H](O[C@H](C[C@@H]2O)O[C@@H]3[C@H](O[C@H](C[C@@H]3O)O[C@H]4CC[C@]5([C@@H](C4)CC[C@@H]6[C@@H]5C[C@H]([C@]7([C@@]6(CC[C@@H]7C8=CC(=O)OC8)O)C)O)C)C)C)O)O.CN(C)C1=CC2=C(C=C1)[NH+]=C3C(=CC(=O)C(=C3O2)O)C(=O)O.[Cl-] | InChI=1S/C41H64O14.C15H12N2O5.ClH/c1-19-36(47)28(42)15-34(50-19)54-38-21(3)52-35(17-30(38)44)55-37-20(2)51-33(16-29(37)43)53-24-8-10-39(4)23(13-24)6-7-26-27(39)14-31(45)40(5)25(9-11-41(26,40)48)22-12-32(46)49-18-22;1-17(2)7-3-4-9-11(5-7)22-14-12(16-9)8(15(20)21)6-10(18)13(14)19;/h12,19-21,23-31,33-38,42-45,47-48H,6-11,13-18H2,1-5H3;3-6,19H,1-2H3,(H,20,21);1H/t19-,20-,21-,23-,24+,25-,26-,27+,28+,29+,30+,31-,33+,34+,35+,36-,37-,38-,39+,40+,41+;;/m1../s1
